US06809199B2
Step A: 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-(5-isopropyl-2,5-diazabicyclo[2.2.1]hept-2-yl)-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one
The title compound was prepared from 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-iodo-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one (EXAMPLE CCC34) and using 2-isopropyl-2,5-diazabicyclo[2.2.1]heptane (INTERMEDIATE ABA2) as described in EXAMPLE 80. Mass spectrum (ESI): 661.3 (M+1).

reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-iodo-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)I)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C28H20Cl3IN2O2
reactant | 2-isopropyl-2,5-diazabicyclo[2.2.1]heptane | C(C)(C)N1C2CNC(C1)C2 | C8H16N2
product | 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-(5-isopropyl-2,5-diazabicyclo[2.2.1]hept-2-yl)-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)N1C2CN(C(C1)C2)C(C)C)C2=C(C=CC=C2Cl)Cl)=O)CC2=CC=C(C=C2)OC | C36H35Cl3N4O2
